US07148218B2
m) Preparation of 1,2,4-trideoxy-3-O-[(1,1-dimethylethyl)dimethylsilyl]-1-[[(2R,3S,4R,5S,6S,7Z)-3-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-5-hydroxy-2,4,6-trimethyl-1-oxo-7,9-decadienyl]methylamino]-2,4-dimethyl-L-arabinitol.
To a solution consisting of 1,2,4-trideoxy-3-O-[(1,1-dimethylethyl)dimethylsilyl]-1-[[(2R,3S,4R,5S,6S,7Z)-3-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-5-[(4-methoxyphenyl)methoxy]-2,4,6-trimethyl-1-oxo-7,9-decadienyl]methylamino]-5-O-[(4-methoxyphenyl)methyl]-2,4-dimethyl-L-arabinitol (1.9 g, 2.2 mmol), CH2Cl2 (40 mL), and H2O (1 mL) at room temperature, is added 2,3-dichloro-5,6-Dicyano-1,4-benzoquinone (DDQ), (2.53 g, 11.1 mmol). After stirring at room temperature for 10 min, the reaction mixture is purified by column chromatography on silica gel with hexane/EtOAc (90/10) to give the desired product (1.15 g, 82.6%) as a white solid.

reactant | 1,2,4-trideoxy-3-O-[(1,1-dimethylethyl)dimethylsilyl]-1-[[(2R,3S,4R,5S,6S,7Z)-3-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-5-[(4-methoxyphenyl)methoxy]-2,4,6-trimethyl-1-oxo-7,9-decadienyl]methylamino]-5-O-[(4-methoxyphenyl)methyl]-2,4-dimethyl-L-arabinitol | 2.2 mmol, 1.9 g | CC(C)(C)[Si](O[C@H]([C@H](CN(C)C([C@@H]([C@H]([C@@H]([C@H]([C@H](\C=C/C=C)C)OCC1=CC=C(C=C1)OC)C)O[Si](C)(C)C(C)(C)C)C)=O)C)[C@H](COCC1=CC=C(C=C1)OC)C)(C)C | C49H83NO7Si2
reactant | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
reactant | 2,3-dichloro-5,6-Dicyano-1,4-benzoquinone | 11.1 mmol, 2.53 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | H2O | 1 mL | O | H2O
product | 1,2,4-trideoxy-3-O-[(1,1-dimethylethyl)dimethylsilyl]-1-[[(2R,3S,4R,5S,6S,7Z)-3-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-5-hydroxy-2,4,6-trimethyl-1-oxo-7,9-decadienyl]methylamino]-2,4-dimethyl-L-arabinitol | 1.15 g, 82.6% | CC(C)(C)[Si](O[C@H]([C@H](CN(C)C([C@@H]([C@H]([C@@H]([C@H]([C@H](\C=C/C=C)C)O)C)O[Si](C)(C)C(C)(C)C)C)=O)C)[C@H](CO)C)(C)C | C33H67NO5Si2
